US07888364B2
6-(trifluoromethyl)-2-methylpyridine-3-carbonyl chloride (1.68 g, 7.51 mmol) in 3 mL THF was added dropwise to a solution of 4-chloro-3-(pyridine-2-yl)aniline (1.21 g, 5.93 mmol) in THF (15 mL) at 0° C. The solution was stirred for 10 min., poured into EtOAc and washed with saturated aq. NaHCO3 (2×), and brine. The organics were dried (Na2SO4) and concentrated. The crude product was suspended in iPrOAc/Et2O (10 mL, 1:1), stirred at 0° C. for ½ hr, and collected by suction filtration to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-6-(trifluoromethyl)-2-methylpyridine-3-carboxamide (2.04 g, 5.21 mmol, 88% yield) as a white solid: TLC Rf=0.28 (35% EtOAc/Hex);

reactant | 6-(trifluoromethyl)-2-methylpyridine-3-carbonyl chloride | 7.51 mmol, 1.68 g | FC(C1=CC=C(C(=N1)C)C(=O)Cl)(F)F | C8H5ClF3NO
reactant | 4-chloro-3-(pyridine-2-yl)aniline | 5.93 mmol, 1.21 g | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-6-(trifluoromethyl)-2-methylpyridine-3-carboxamide | 5.21 mmol, 2.04 g, 88% yield | ClC1=C(C=C(C=C1)NC(=O)C=1C(=NC(=CC1)C(F)(F)F)C)C1=NC=CC=C1 | C19H13ClF3N3O
